US09210927B2
Preparation of (E)-N-(1-(2-Cyano-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)phenyl)-1H-1,2,4-triazol-3-yl)cyclopropanecarboxamide (DC43)
To a stirred solution of (E)-2-(3-amino-1H-1,2,4-triazol-1-yl)-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzonitrile (0.15 g, 0.31 mmol) in CH2Cl2 at 0° C., were added TEA (0.1 g, 1 mmol) and cyclopropylcarbonyl chloride (0.04 g, 0.38 mmol) and the reaction mixture was stirred for 1 h at 0° C. The reaction mixture was diluted with CH2Cl2 and washed with water and brine and dried over Na2SO4. Concentration under reduced pressure and purification by column chromatography (SiO2, 100-200 mesh) afforded the title compound as a solid (66 mg, 34%): mp 109-112° C.; 1H NMR (300 MHz, DMSO-d6) δ 10.94 (br s, 1H), 8.36 (s, 1H), 8.08 (m, J=8.4 Hz, 1H), 7.91 (s, 2H), 7.84 (d, J=8.4 Hz, 1H), 7.13 (dd, J=15.6, 9.2 Hz, 1H), 6.87 (d, J=15.6 Hz, 1H), 4.92 (m, 1H), 1.99 (br s, 1H), 0.82 (s, 4H); ESIMS m/z 540.04 ([M+H]+); IR (thin film) 3233, 2233, 1699, 1114, 807 cm−1.

reactant | (E)-2-(3-amino-1H-1,2,4-triazol-1-yl)-5-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzonitrile | 0.31 mmol, 0.15 g | NC1=NN(C=N1)C1=C(C#N)C=C(C=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C19H11Cl3F3N5
reactant | cyclopropylcarbonyl chloride | 0.38 mmol, 0.04 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (E)-N-(1-(2-Cyano-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)phenyl)-1H-1,2,4-triazol-3-yl)cyclopropanecarboxamide | 66 mg, 34% | C(#N)C1=C(C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)N1N=C(N=C1)NC(=O)C1CC1 | C23H15Cl3F3N5O
